US07776857B2
Synthesis of 4(5,6,7,8-tetrahydro-1,5-naphthyridin-4-yloxy)benzenamine
To a solution of 4-(7-bromo-1,5-naphthyridin-4-yloxy)benzenamine (0.150 g, 0.474 mmol) in MeOH (7 mL) at RT was added a suspension of 10% palladium on carbon (0.0505 g, 0.474 mmol) in EtOAc (2 mL). The mixture was subjected to an atmosphere of hydrogen (balloon) and stirred overnight. After 18 hrs, the mixture was filtered over celite and concentrated in vacuo. The resulting tan foam, crude 4-(5,6,7,8-tetrahydro-1,5-naphthyridin-4-yloxy)benzenamine, was advanced without further purification. MH+=242.2@0.49 min

reactant | 4-(7-bromo-1,5-naphthyridin-4-yloxy)benzenamine | 0.474 mmol, 0.150 g | BrC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)N | C14H10BrN3O
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 7 mL | CO | CH4O
catalyst | palladium on carbon | 0.474 mmol, 0.0505 g | [Pd] | Pd
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 4(5,6,7,8-tetrahydro-1,5-naphthyridin-4-yloxy)benzenamine | N1=CC=C(C=2NCCCC12)OC1=CC=C(C=C1)N | C14H15N3O
